US04549019
35 ml of triethylamine are added to a suspension of 13.3 g (0.05 mol) of methyl 2-amino-6-[(3,6-dihydro-1(2H)-pyridyl)]-4-pyrimidinecarbamate-3-oxide in 600 ml of methylene chloride. After cooling to -20°, 32.5 ml (0.06 mol) of a 20% solution of phosgene in toluene are added dropwise within 2 minutes. After 10 minutes, the mixture is treated with 100 ml of 1N sodium hydroxide. The organic phase is separated and extracted with 1N sodium hydroxide. The aqueous extracts are acidified with 25% hydrochloric acid and the milky suspension is extracted with methylene chloride/methanol (95:5). The organic extracts are dried over sodium sulfate and evaporated under reduced pressure. 90 ml of acetonitrile are added to the residue. 5.6 g of dicyclohexylamine are added at 45° to the suspension obtained and the mixture is stirred at this temperature for a further 4 hours. The crystalline precipitate is filtered off under suction, washed with acetonitrile, carefully sucked dry and added to 180 ml of water. The suspension obtained is acidified to pH 3 with a solution of potassium bisulfate and stirred for a further 0.75 hour. After cooling to 0°, the precipitate is filtered off under suction, washed with water and dried at 60° under reduced pressure. After recrystallization from a mixture of methylene chloride/methanol/ether, there is obtained methyl 5-[3,6-dihydro-1(2H)-pyridyl]-2-oxo-2H-[1,2,4]oxadiazolo-[2,3-a]pyrimidine-7-carbamate of melting point 216°-218°.

reactant | methyl 2-amino-6-[(3,6-dihydro-1(2H)-pyridyl)]-4-pyrimidinecarbamate-3-oxide | 0.05 mol, 13.3 g | NC1=NC(=CC(=[N+]1[O-])NC(=O)OC)N1CCC=CC1 | C11H15N5O3
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | sodium hydroxide | 1N, 100 ml | [OH-].[Na+]
reactant | potassium bisulfate | S([O-])(O)(=O)=O.[K+]
solvent | methylene chloride | 600 ml | C(Cl)Cl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 35 ml | C(C)N(CC)CC | C6H15N
product | methyl 5-[3,6-dihydro-1(2H)-pyridyl]-2-oxo-2H-[1,2,4]oxadiazolo-[2,3-a]pyrimidine-7-carbamate | N1(CCC=CC1)C1=NC=2N(C(=C1)NC(=O)OC)OC(N2)=O | C12H13N5O4
